US05380742
5.4 1-(1-Propen-2-yl)-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole.
5 g of calcium chloride and 0.17 ml (3 mmol) of acetic acid are added to a solution of 0.81 g (2.86 mmol) of 1-(2-hydroxy-2-propyl)-5-(1,1-dimethyl-ethoxy) carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole in 60 ml of chloroform. The mixture is heated at reflux for 24 hours, filtered, washed with a 5% sodium bicarbonate solution, then dried over sodium sulphate and evaporated to dryness. 0.78 g of an oily product is obtained.

reactant | calcium chloride | 5 g | [Cl-].[Ca+2].[Cl-]
reactant | acetic acid | 3 mmol, 0.17 ml | C(C)(=O)O | C2H4O2
reactant | 1-(2-hydroxy-2-propyl)-5-(1,1-dimethyl-ethoxy) carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 2.86 mmol, 0.81 g | OC(C)(C)C=1SC=C2C1CN(C2)C(=O)OC(C)(C)C | C14H21NO3S
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(1-Propen-2-yl)-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 0.78 g | C=C(C)C=1SC=C2C1CN(C2)C(=O)OC(C)(C)C | C14H19NO2S
